US07504404B2
3-{5-[8-Methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide
The title compound was prepared from 8-methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid (example C.34) (160 mg, 0.5 mmol) and N-hydroxy-3-sulfamoyl-benzamidine [CAS-No. 9000-88-7] (161 mg, 0.75 mmol) according to general procedure II. Obtained after trituration with water and further purification by crystallization (MeOH/diethyl ether) as an off-white solid (175 mg, 70%). MS (ISP) 500.3 [(M+H)+]; mp 326° C.

reactant | 8-methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid | 0.5 mmol, 160 mg | CC=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C(=O)O | C16H11F3N2O2
reactant | N-hydroxy-3-sulfamoyl-benzamidine | 0.75 mmol, 161 mg | ONC(C1=CC(=CC=C1)S(N)(=O)=O)=N | C7H9N3O3S
product | 3-{5-[8-Methyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide | CC=1C=2N(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=CN2)C2=NC(=NO2)C=2C=C(C=CC2)S(=O)(=O)N | C23H16F3N5O3S
